### PR TITLE
feat: more theorems on `Short`

### PR DESCRIPTION
**Pull request by vihdzp**
These are useful for #94.

### CODE REVIEW

File: CombinatorialGames/Game/Short.lean [hunk 1]
```diff
@@ -72,6 +75,15 @@ protected theorem isOption [Short x] (h : IsOption y x) : Short y := by
 
 alias _root_.IGame.IsOption.short := Short.isOption
 
+protected theorem subposition {x : IGame} [Short x] (h : Subposition y x) : Short y := by
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Short.lean:78]:
```suggestion
protected theorem subposition {x y : IGame} [Short x] (h : Subposition y x) : Short y := by
```

**Review by tristan-f-r — APPROVED** [review]
These theorems look good :+1:. Just one comment, but I'll delegate this to you.

File: CombinatorialGames/Game/Short.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Short.lean:78]: `y` already exists as an implicit variable. So does `x`, but we need to specify it explicitly so that it's generalized in our induction.
